datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1](=[C:2]([C:3]([H:19])([H:20])[H:21])[c:4]1[c:5]([H:22])[c:6]([H:23])[c:7]([H:24])[c:8]([H:25])[c:9]1[H:26])[c:10]1[c:11]([H:27])[c:12]([H:28])[c:13]([H:29])[c:14]([H:30])[c:15]1[H:31])([H:16])([H:17])[H:18].[C:32]([H:33])([H:34])[H:35]>>[C:0]([C:1]([C:2]([C:3]([H:19])([H:20])[H:21])[c:4]1[c:5]([H:22])[c:6]([H:23])[c:7]([H:24])[c:8]([H:25])[c:9]1[H:26])([c:10]1[c:11]([H:27])[c:12]([H:28])[c:13]([H:29])[c:14]([H:30])[c:15]1[H:31])[C:32]([H:33])([H:34])[H:35])([H:16])([H:17])[H:18],34.3925
[C:0](#[C:1][C:2]([S:3][H:7])([H:5])[H:6])[H:4].[C:8](#[C:9][C:10]([C:11]([H:14])([H:15])[H:16])[S:12][H:17])[H:13]>>[C:0](#[C:1][C:2]([S:3][H:7])[H:6])[H:4].[H:5][C:10]([C:9]#[C:8][H:13])([C:11]([H:14])([H:15])[H:16])[S:12][H:17],23.4304
[C:0](#[C:1][H:3])[H:2].[C:4](#[C:5][C:6]([C:7]#[C:8][H:11])[H:10])[H:9]>>[C:0](=[C:1][H:3])([H:2])[C:6]([C:5]#[C:4][H:9])([C:7]#[C:8][H:11])[H:10],60.83536
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([H:7])[H:8])[H:6])([H:4])[H:5].[O:12][O:13]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])[H:8])[H:6])([H:4])[H:5].[H:7][O:12][O:13],155.60296
[C:13](=[C:14]([H:16])[H:17])[H:15].[S:0]([c:1]1[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12])[H:7]>>[H:7][C:13](=[C:14]([H:16])[H:17])[H:15].[S:0][c:1]1[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12],-10.8784
[C:0](=[S:1])([H:2])[H:3].[C:4]([C:5]([C:6]([H:11])([H:12])[H:13])[C:7]([H:14])([H:15])[H:16])([H:8])([H:9])[H:10]>>[C:0]([S:1][C:5]([C:4]([H:8])([H:9])[H:10])([C:6]([H:11])([H:12])[H:13])[C:7]([H:14])([H:15])[H:16])([H:2])[H:3],-13.3888
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[C:4]([H:9])([H:10])[H:11])[H:5].[C:12](=[C:13]([C:14]([C:15](=[C:16]([H:28])[H:29])[H:27])=[C:17]([c:18]1[c:19]([H:31])[c:20]([H:32])[c:21]([H:33])[c:22]([H:34])[c:23]1[H:35])[H:30])[H:26])([H:24])[H:25]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([C:4]([H:9])([H:10])[H:11])[C:17]([C:14]([C:13](=[C:12]([H:24])[H:25])[H:26])[C:15](=[C:16]([H:28])[H:29])[H:27])([c:18]1[c:19]([H:31])[c:20]([H:32])[c:21]([H:33])[c:22]([H:34])[c:23]1[H:35])[H:30])[H:5],27.991
[C:0](#[C:1][C:2]([C:3](=[C:4]([C:5]([C:6](=[C:7]([C:8]([H:17])([H:18])[H:19])[H:16])[H:15])([H:13])[H:14])[H:12])[H:11])[H:10])[H:9]>>[C:0](#[C:1][C:2]1([H:10])[C:3]([H:11])=[C:4]([H:12])[C:5]([H:13])([H:14])[C:6]1([C:7]([C:8]([H:17])([H:18])[H:19])[H:16])[H:15])[H:9],115.018
[C:0](=[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])([H:8])[H:9])[H:7])([H:5])[H:6].[O:15]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:12])([H:13])[H:14])([H:10])[H:11])[H:9])[H:7])([H:5])[H:6].[H:8][O:15],5.06264
[C:0](=[C:1]1[C:2]([H:12])([H:13])[C:3]([H:14])[c:4]2[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]([H:18])[c:9]21)([H:10])[H:11]>>[C:0](=[C:1][c:9]1[c:4]([C:3](=[C:2]([H:12])[H:13])[H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:10])[H:11],207.848568
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[H:7])[H:6])([H:4])[H:5].[C:11]([C:12]([C:13]([H:24])([H:25])[H:26])=[C:14]([c:15]1[c:16]([H:28])[c:17]([H:29])[c:18]([H:30])[c:19]([H:31])[c:20]1[H:32])[H:27])([H:21])([H:22])[H:23]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([H:7])[C:12]([C:11]([H:21])([H:22])[H:23])([C:13]([H:24])([H:25])[H:26])[C:14]([c:15]1[c:16]([H:28])[c:17]([H:29])[c:18]([H:30])[c:19]([H:31])[c:20]1[H:32])[H:27])[H:6])([H:4])[H:5],53.3042
[S:0]([c:1]1[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12])[H:7].[S:13][S:14][H:15]>>[H:7][S:13][S:14][H:15].[S:0][c:1]1[c:2]([H:8])[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]1[H:12],39.0367
[C:0]([C:1]([O:2])([H:6])[H:7])([H:3])([H:4])[H:5].[O:8][O:9]>>[C:0]([C:1](=[O:2])[H:7])([H:3])([H:4])[H:5].[H:6][O:8][O:9],4.589848
[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])[C:4]([H:11])([H:12])[H:13])[H:7])([H:5])[H:6].[S:14]=[C:15]([C:16]([S:17][H:21])([H:19])[H:20])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([H:11])([H:12])[H:13])[H:19])[H:7])([H:5])[H:6].[S:14]=[C:15]([C:16]([S:17][H:21])[H:20])[H:18],13.3888
[C:0](#[C:1][C:2]([C:3]#[C:4][H:9])=[C:5]([C:6]([H:10])([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])[H:8].[H:16]>>[C:0](#[C:1][C:2]([C:3]#[C:4][H:9])([C:5]([C:6]([H:10])([H:11])[H:12])[C:7]([H:13])([H:14])[H:15])[H:16])[H:8],16.2758
[C:0]([H:1])([H:2])([H:3])[H:4].[C:5](=[C:6]([C:7]([C:8]([H:13])([H:14])[H:15])[H:12])[H:11])([H:9])[H:10]>>[C:0]([H:2])([H:3])[H:4].[H:1][C:7]([C:6](=[C:5]([H:9])[H:10])[H:11])([C:8]([H:13])([H:14])[H:15])[H:12],104.182
[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])=[C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])[H:9])([H:7])[H:8].[C:19]([C:20]([c:21]1[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]1[H:35])[H:30])([H:27])([H:28])[H:29]>>[C:0](=[C:1]([C:2]([C:3]([H:10])([H:11])[H:12])([C:4]([C:5]([H:13])([H:14])[H:15])[C:6]([H:16])([H:17])[H:18])[C:20]([C:19]([H:27])([H:28])[H:29])([c:21]1[c:22]([H:31])[c:23]([H:32])[c:24]([H:33])[c:25]([H:34])[c:26]1[H:35])[H:30])[H:9])([H:7])[H:8],44.7688
